US07759385B2
1-hydroxybenzotriazole (540 mg, 4.0 mmole), 3-piperidine-4-yl)-1H-indole (400 mg, 2.0 mmole) and N-methylmorpholine (0.444 ml, 4.0 mmole) were added in succession under argon to a solution of (4-dimethylamino-4-phenylcyclohexylidene)-acetic acid (592 mg, 2.0 mmole) in dry dimethylformamide (10 ml). The solution was cooled in an ice bath and dicyclohexyldicarbodiimide (826 g, 4.0 mmole) was added. The reaction mixture was stirred for 4 days at RT, the dicyclohexylurea precipitating out little by little. The reaction mixture was worked up by separating the precipitated urea and adding the filtrate to a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Oily products thereupon precipitated out, which could not be separated by filtration. The reaction mixture was extracted with DCM (3×70 ml), the extracts were combined and the organic phase was washed with water (2×50 ml). After drying, the organic phase was concentrated by evaporation, 2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[4-(1H-indol-3-yl)-piperidine-1-yl]-ethanone being obtained as a brown, oily crude product. After chromatographic separation on silica gel (70 g) with EE/methanol (2:1), 2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[4-(1H-indol-3-yl)-piperidine-1-yl]-ethanone was isolated as a yellow foamy solid in a yield of 41% (359 mg).

reactant | 1-hydroxybenzotriazole | 4.0 mmole, 540 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1H-indole | 2.0 mmole, 400 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | N-methylmorpholine | 4.0 mmole, 0.444 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-4-phenylcyclohexylidene)-acetic acid | 2.0 mmole, 592 mg | CN(C1(CCC(CC1)=CC(=O)O)C1=CC=CC=C1)C | C16H21NO2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[4-(1H-indol-3-yl)-piperidine-1-yl]-ethanone | yield of 41% | CN(C1(CCC(CC1)=CC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C29H35N3O
